US04840971
Synthesis of 2-(3,4 methylenedioxyphenyl)-3,3,3trifluoropropyl 3-phenoxybenzyl ether (compound (6))
Under a nitrogen atmosphere, 0.18 g of sodium hydride (60% oil dispersion) was added to 20 ml of dry THF. A solution of 1.0 g of 2-(3,4-methylenedioxyphenyl)-3,3,3-trifluoropropanol and 1.17 g of 3-phenoxybenzyl bromide in 10 ml of dry THF was then added with ice-cooling, and the reaction solution was stirred at room temperature for 14 hours. Thereafter, the reaction mixture was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (25:1) mixture] to obtain 1.2 g of the desired compound.

reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 2-(3,4-methylenedioxyphenyl)-3,3,3-trifluoropropanol | 1.0 g | C1OC=2C=C(C=CC2O1)C(CO)C(F)(F)F | C10H9F3O3
reactant | 3-phenoxybenzyl bromide | 1.17 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3,4 methylenedioxyphenyl)-3,3,3trifluoropropyl 3-phenoxybenzyl ether | 1.2 g | O(C1=CC=CC=C1)C=1C=C(COCC(C(F)(F)F)C2=CC3=C(C=C2)OCO3)C=CC1 | C23H19F3O4
